US07157487B2
In EtOH (9.0 ml), 5-chloro-1-methylindole-3-carbaldehyde (534 mg, 2.76 mmol) and methyl 4-amino-3-hydroxyphenylacetate (500 mg, 2.76 mmol) were stirred for hours. After iodobenzene diacetate (2.03 g, 6.31 mmol) was added to the reaction mixture and the mixture was stirred at room temperature for 1 hour, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby from n-hexane-ethyl acetate (1:1, v/v) eluate fractions, a mixture (594 mg) of methyl (2-(5-chloro-1-methyl-3-indolyl)-6-benzoxazolyl)acetate and 5-chloro-1-methylindole-3-carboxaldehyde was obtained. To the resulting mixture were added THF (17 ml) and 0.25N NaOH (10.0 ml, 2.50 mmol) and the mixture was stirred at room temperature for 23 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. To the residue was added 1N HCl (10 ml), followed by extraction with chloroform-methanol (4:1, v/v). The extract was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent to give (2-(5-chloro-1-methyl-3-indolyl)-6-benzoxazolyl)acetic acid (88 mg, 9%) as a brown solid.

reactant | 5-chloro-1-methylindole-3-carbaldehyde | 2.76 mmol, 534 mg | ClC=1C=C2C(=CN(C2=CC1)C)C=O | C10H8ClNO
reactant | methyl 4-amino-3-hydroxyphenylacetate | 2.76 mmol, 500 mg | NC1=C(C=C(C=C1)CC(=O)OC)O | C9H11NO3
reactant | iodobenzene diacetate | 6.31 mmol, 2.03 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | EtOH | 9.0 ml | CCO | C2H6O
product | methyl (2-(5-chloro-1-methyl-3-indolyl)-6-benzoxazolyl)acetate | 594 mg | ClC=1C=C2C(=CN(C2=CC1)C)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H15ClN2O3
